US08633237B2
b) (S)-methyl 3-(trifluoromethyl)-5-((2-(trifluoromethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)benzoate
To a solution of (S)-methyl 3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate (0.235 mmol, 82 mg) and DIPEA (0.469 mmol, 0.078 mL, 60.7 mg) in DCM (2 mL) at 0° C. was added trifluoromethanesulfonic anhydride (0.235 mmol, 0.039 mL, 66.2 mg). The whole was allowed to warm to room temperature overnight with stirring before the reaction mixture was quenched by the addition of 2N HCl & the organics separated through a hydrophobic frit. Following concentration to dryness, the residue was purified by chromatography (20% EtOAc/heptane) to give a white solid (65 mg, 57.5%). MS (ESI): m/z [M+H]+ 482.0

reactant | (S)-methyl 3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate | 0.235 mmol, 82 mg | N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C19H18F3NO2
reactant | DIPEA | 0.469 mmol, 0.078 mL, 60.7 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.235 mmol, 0.039 mL, 66.2 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 3-(trifluoromethyl)-5-((2-(trifluoromethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)benzoate | 65 mg, 57.5% | FC(C=1C=C(C(=O)OC)C=C(C1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(F)(F)F)(F)F | C20H17F6NO4S
